data/mechanisms/records/IMS8-EQ8.67.json
{"mechanism_id": "IMS8-EQ8.67", "species": [{"species_id": "piperidine_radical_cation", "mapped_smiles": "[NH+:1]1[CH2:2][CH2:3][CH2:4][CH2:5][CH:6]1[1H:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_iminium_distonic_ion", "mapped_smiles": "[CH2:2]=[NH+:1][CH:6]([1H:7])[CH2:5][CH2:4][CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "vinyl_iminium_ion", "mapped_smiles": "[CH2:2]=[NH+:1][CH:6]=[CH2:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:4][CH2:3][1H:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["piperidine_radical_cation"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_iminium_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["vinyl_iminium_ion", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rh_with_beta_cleavage", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [3, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 188, "equation": "8.67", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "First arrow of Equation 8.67. CONCRETE scheme: the piperidine molecular ion, n-ionized at nitrogen ('+.' written next to the ring N, which also carries an explicit H). Atom maps: 1 = N, 2 = C2 (becomes the CH2 of the iminium head), 3 = C3 (becomes the radical terminus), 4 = C4, 5 = C5, 6 = C6 (the other N-adjacent carbon, which donates H map 7). Alpha-cleavage forms the N1=C2 iminium bond and breaks the C2-C3 ring bond, opening the ring to the distonic ion CH2=N+(H)-CH2CH2CH2-.CH2 that the page draws as the middle structure (radical dot on the far chain terminus). Book draws 2 arcs: the small fishhook leaving the N '+.' dot and hooking down onto the N-C2 bond (move <1>), and the large fishhook whose tail sits on the C2-C3 ring bond and whose barb points back at the forming N=C2 bond (move <2>); move <3>, the other C2-C3 sigma electron onto C3, is an implicit homolysis hook required for electron balance (not drawn on the page, although the product radical dot is shown)."}, {"evidence_id": "ev_step_rh_with_beta_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rh_with_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 188, "equation": "8.67", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.7, "curator_note": "Second arrow of Equation 8.67, drawn on the folded ring-opened intermediate. The explicitly drawn H (map 7) on C6 - the carbon still bonded to N - is transferred across the folded chain to the C3 radical terminus, and the products printed on the page are the even-electron ion CH2=N+(H)-CH=CH2 labelled 'm/z 56' plus the ethyl radical drawn as H2C(.)-CH3, i.e. C2H5. loss. Book draws 2 arcs, both fishhooks: one whose tail sits on the C6-H bond and whose barb points across to the radical carbon (move <2>, one C6-H electron travelling with the H into the new C3-H bond), and one whose tail is at the radical dot on C3 and whose barb points back at the H (move <1>, the C3 odd electron into that same new bond). Moves <3,4,5> are implicit and required for electron balance (not drawn on the page): <3> the other C6-H electron into the forming C5=C6 pi bond, <4> one electron of the breaking C4-C5 sigma bond into that same pi bond, and <5> the other C4-C5 electron onto C4, which becomes the radical carbon of the expelled ethyl radical. COMPOSITE-STEP DISCLOSURE: the two DRAWN arcs by themselves only perform the 1,4-H shift and would stop at an undrawn C6-radical intermediate CH2=N+(H)-.CH-CH2CH2CH3; the beta-scission of C4-C5 that actually produces the printed products is not drawn as arcs and the book draws no structure for that intermediate, so - rather than invent an undrawn species - the H shift and the beta-scission are encoded as one composite step whose five moves reproduce exactly the products printed on the page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 85.0886, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_iminium_m56", "species_id": "vinyl_iminium_ion", "step_id": "step_rh_with_beta_cleavage", "observed_mz": 56.0495, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
